US04283420
12 g (0.06 mole) of ethyl 1-(1-hyroxyethyl)-1-cyclohexyl-carboxylate were heated at 90° C. for 3 hours in 100 cm3 of benzene in the presence of 12 g of P2O5. The brown benzenic solution was washed in the cool with water, then distilled. The ethyl 1-vinyl-cyclohexyl-carboxylate was obtained with a yield of 55% (6 g) in the form of a colourless liquid.

reactant | ethyl 1-(1-hyroxyethyl)-1-cyclohexyl-carboxylate | 0.06 mole, 12 g | OC(C)C1(CCCCC1)C(=O)OCC | C11H20O3
reactant | P2O5 | 12 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | benzene | 100 cm3 | C1=CC=CC=C1 | C6H6
product | ethyl 1-vinyl-cyclohexyl-carboxylate | yield of 55% | C(=C)C1(CCCCC1)C(=O)OCC | C11H18O2
